US08026257B2
(±)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
(±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate (600 mg, 1.27 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (0.41 g, 1.40 mmol) were combined in a dichloromethane/cyclohexane mixture (1:1, 8 mL) and cooled to 0° C. The reaction was treated with tetrafluoroboric acid-diethyl ether complex (40 μL, 0.26 mmol), stirred at 0° C. for 1 h, quenched by addition of saturated sodium bicarbonate, and diluted with diethyl ether. The layers were separated. The ethereal was washed with water (2×), 1M potassium bisulfate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (18% ethyl acetate/hexanes) gave 380 mg (50%) as a yellow film. 1H-NMR (CDCl3, 300 MHz) δ 7.96 (s, 1H), 7.45 (d, J=1.8 Hz, 1H), 7.28-7.35 (m, 4H), 7.17-7.23 (m, 1H), 6.86 (m, 1H), 5.62 (s, 2H), 4.93 (q, J=6.2 Hz, 1H), 3.72 (m, 2H), 3.55-3.60 (m, 2H), 3.38 (d, J=9.2 Hz, 1H), 3.34 (d, J=8.8 Hz, 1H), 2.97-3.08 (m, 2H), 2.10-2.21 (m, 2H), 1.91-1.97 (m, 2H), 1.42 (d, J=6.2 Hz, 3H), 1.41 (s, 9H), 0.82-0.87 (m, 2H), 0.08 (s, 9H). Mass spec.: 600.22 (MH)+.

reactant | (±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | 1.27 mmol, 600 mg | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl)=N)(Cl)Cl | C17H23Cl4N3O2Si
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 1.40 mmol, 0.41 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
solvent | dichloromethane cyclohexane | 8 mL | ClCCl.C1CCCCC1
product | (±)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C32H46ClN3O4Si
